US08183246B2
2-Amino-4-(4-ethylphenyl)-5-(2-fluorophenyl)-3-furonitrile
Put 50 g (0.19 mol) 1-(4-ethylphenyl)-2-(2-fluorophenyl)-2-hydroxyethanone and 17 g (0.25 mol) malononitrile in 93 ml DMF. After stirring for five minutes, add 17 ml (12 g, 0.12 mol) diethylamine, cooling with ice. Stir the reaction mixture for 1 h with ice cooling. Then leave to warm to room temperature and stir for 4 h at this temperature. After adding 500 ml water and stirring for 30 min, decant the aqueous phase. Add 500 ml water again and decant again, obtaining an oily residue, which is dissolved in ethyl acetate, dried over sodium sulphate and filtered. Concentrate the filtrate by vacuum evaporation. According to DC analysis (solvent: cyclohexane/ethyl acetate 4:1), the residue still contains 1-(4-ethylphenyl)-2-(2-fluorophenyl)-2-hydroxyethanone. Therefore, the residue is again reacted in 90 ml DMF with 5.5 g (0.08 mol) malononitrile and 10 ml (7 g, 0.10 mol) diethylamine in accordance with the above procedure. Add the reaction mixture to 500 ml ethyl acetate and wash three times with 300 ml water each time and once with 300 ml satd. sodium chloride solution. Dry the organic phase over sodium sulphate, and filter. Concentrate the filtrate by vacuum evaporation. Purify the residue by flash chromatography on silica gel (solvent: cyclohexane/ethyl acetate 3:1). 36 g (61% of theor.) of the title compound is obtained, and is reacted without further characterization.

reactant | 1-(4-ethylphenyl)-2-(2-fluorophenyl)-2-hydroxyethanone | 0.19 mol, 50 g | C(C)C1=CC=C(C=C1)C(C(O)C1=C(C=CC=C1)F)=O | C16H15FO2
reactant | malononitrile | 0.25 mol, 17 g | C(CC#N)#N | C3H2N2
reactant | diethylamine | 0.12 mol, 17 ml, 12 g | C(C)NCC | C4H11N
reactant | water | 500 ml | O | H2O
reactant | malononitrile | 0.08 mol, 5.5 g | C(CC#N)#N | C3H2N2
reactant | diethylamine | 0.10 mol, 10 ml, 7 g | C(C)NCC | C4H11N
solvent | DMF | 93 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
product | 2-Amino-4-(4-ethylphenyl)-5-(2-fluorophenyl)-3-furonitrile | NC=1OC(=C(C1C#N)C1=CC=C(C=C1)CC)C1=C(C=CC=C1)F | C19H15FN2O
